US05104889
Production of 2,6-di-tert-butyl-4-(2-thiazolyloxy)phenol hydrochloride
O-(3,5-Di-tert-butyl-4-hydroxyphenyl) thiocarbamate (1.00 g), 0.66 g of chloroacetaldehyde diethyl acetal and 0.03 g of p-toluenesulfonic acid monohydrate were dissolved in 6 ml of acetic acid, and the solution was heated at 95° C. for 1 hour. The reaction mixture was poured into water and extracted with chloroform. The organic layer was washed with saturated aqueous sodium bicarbonate solution and then with saturated aqueous sodium chloride solution, dried over magnesium sulfate and concentrated. The crude product obtained was dissolved in 10 ml of diethyl ether, 1.1 ml of 4 N hydrogen chloride solution in ethyl acetate was added thereto, and the solid precipitate was collected by filtration and dried to give 0.80 g of the desired compound as a colorless solid.

reactant | O-(3,5-Di-tert-butyl-4-hydroxyphenyl) thiocarbamate | 1.00 g | C(N)(OC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=S | C15H23NO2S
reactant | chloroacetaldehyde diethyl acetal | 0.66 g | C(C)OC(CCl)OCC | C6H13ClO2
reactant | water | O | H2O
reactant | hydrogen chloride | 4 N, 1.1 ml | Cl | ClH
solvent | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | p-toluenesulfonic acid monohydrate | 0.03 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 2,6-di-tert-butyl-4-(2-thiazolyloxy)phenol hydrochloride | 0.80 g | Cl.C(C)(C)(C)C1=C(C(=CC(=C1)OC=1SC=CN1)C(C)(C)C)O | InChI=1S/C17H23NO2S.ClH/c1-16(2,3)12-9-11(20-15-18-7-8-21-15)10-13(14(12)19)17(4,5)6;/h7-10,19H,1-6H3;1H
